US08039463B2
Ammonium chloride (4.45 g, 83.26 mmol) in water (10 mL) and methanol (20 mL) was added to a stirred solution of 1-(4-nitro-phenyl)-1H-pyridin-2-one (1.8 g, 8.3 mmol) in THF (20 mL). Zinc powder (4.3 g, 66.6 mmol) was then added portion wise and the resulting mixture was stirred at room temperature for 30 minutes. The mixture was filtered over celite and the filtrate was concentrated and extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated to afford 1.23 g (79%) of 1-(4-amino-phenyl)-1H-pyridin-2-one. 1H NMR: (DMSO-d6): δ 7.6-7.4 (m, 2H), 7.0 (d, 2H), 6.7 (d, 2H), 6.45 (d, 1H), 6.3 (t, 1H), 5.4 (s, 2H).

reactant | Ammonium chloride | 83.26 mmol, 4.45 g | [Cl-].[NH4+]
reactant | 1-(4-nitro-phenyl)-1H-pyridin-2-one | 8.3 mmol, 1.8 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H8N2O3
solvent | water | 10 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 66.6 mmol, 4.3 g | [Zn] | Zn
product | 1-(4-amino-phenyl)-1H-pyridin-2-one | 1.23 g, 79% | NC1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H10N2O
